US08791129B2
[2-Amino-6-(2-diethylaminomethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone (“A57”)
200 mg of [2-amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone are dissolved in 5 ml of acetonitrile. 301 mg of caesium carbonate and 73 μl of diethylamine are added, and the mixture is stirred at 80° C. for 16 h. After cooling to 25° C., the mixture is filtered, and the filtrate is evaporated to dryness. The residue is taken up in 5 ml of ethyl acetate, the solution is washed with 5 ml of 2N sodium hydroxide solution, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness and purified by chromatography (reversed phase HPLC).

reactant | [2-amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 200 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CCl | C24H18ClFN4O
reactant | caesium carbonate | 301 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethylamine | 73 μl | C(C)NCC | C4H11N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | [2-Amino-6-(2-diethylaminomethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CN(CC)CC | C28H28FN5O
